US09260408B2
[A] 6-{5-[2-(tert-Butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one
To a solution of 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride (intermediate A-2, 0.062 g, 0.214 mmol) in MeOH (1.5 mL) was added AcOH (0.154 g, 2.57 mmol), followed by 2-(tert-butyldimethylsilyloxy)acetaldehyde (0.039 g, 0.225 mmol) and the reaction mixture was stirred at room temperature for 1 h. Then, NaBH3CN (0.027 g, 0.428 mmol) in THF (0.6 mL) was added to the reaction mixture and stirring at room temperature was continued for 2 h. The mixture was diluted with EtOAc, poured into aq. NaHCO3 (10 mL) and the aqueous layer was extracted with EtOAc (2×25 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (0.06 g, 68%) as a yellow solid. MS: 412.3 (M+H+).

reactant | 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride | 0.214 mmol, 0.062 g | Cl.NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O
reactant | AcOH | 2.57 mmol, 0.154 g | CC(=O)O | C2H4O2
reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 0.225 mmol, 0.039 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | NaBH3CN | 0.428 mmol, 0.027 g | [BH3-]C#N.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-{5-[2-(tert-Butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.06 g, 68% | C(C)(C)(C)[Si](OCCNC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C23H33N3O2Si
